US04847254
6-Methoxy-N-propyl-N-(2-phenylethyl)-1-indanmethylamine
To a suspension of 1 g of lithium aluminum hydride in 15 milliliters of anhydrous ether was added a solution of 5 g of the residue of 6-methoxy-N-propyl-N-(2-phenylethyl)-1-indanamide in 15 milliliters of anhydrous ether at a rate which maintained gentle reflux of the reaction mixture. Reflux and stirring were continued for 5 hours. The reaction mixture was then stirred overnight without heating. Destruction of the excess lithium aluminium hydride was completed by cautious dropwise addition of 1 milliliter of water followed by dropwise addition of 1 milliliter of 14% sodium hydroxide solution and subsequent addition of 5 milliliters of water. Stirring was continued for 30 minutes. Filtration yielded a clear ether solution which was dried (MgSO4) and evaporated, yielding 4 grams of an oil, which was used directly in the next step without further purification.

reactant | lithium aluminum hydride | 1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 6-methoxy-N-propyl-N-(2-phenylethyl)-1-indanamide | COC1=CC=C2CCC(C2=C1)C(=O)N(CCC1=CC=CC=C1)CCC | C22H27NO2
solvent | ether | 15 milliliters | CCOCC | C4H10O
solvent | ether | 15 milliliters | CCOCC | C4H10O
product | 6-Methoxy-N-propyl-N-(2-phenylethyl)-1-indanmethylamine | 4 grams | COC1=CC=C2CCC(C2=C1)CN(CCC1=CC=CC=C1)CCC | C22H29NO
